US07696223B2
a) 7-Hydroxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (1.02 g, 3.39 mmole) and bis(2,4,6-trimethylpyridine)iodine(I) hexafluorophosphate (2.61 g, 5.08 mmole) in dichloromethane (30 ml) was stirred at room temperature for 16 h before it was concentrated and purified by flash column chromatography on silica gel with a gradient of dichloromethane and hexanes to give the title compound as a yellow solid (1.00 g). MS: (+) m/z 427.05 (M+1), MS: (−) m/z 425.01 (M−1).

reactant | 7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 3.39 mmole, 1.02 g | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=CC=C2)O | C15H12N2O3S
reactant | bis(2,4,6-trimethylpyridine)iodine(I) hexafluorophosphate | 5.08 mmole, 2.61 g | CC1=CC(=NC(=C1)C)C.CC1=CC(=NC(=C1[IH+])C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-Hydroxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 1.00 g | C(C)OC(=O)C1=C(C2=C(C(=N1)I)N=C(S2)C2=CC=CC=C2)O | C15H11IN2O3S
